US08022062B2
3-tert-Butoxycarbonyl-6-(4-bromomethyl-benzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Dissolve the crude 3-tert-butoxycarbonyl-7-chloro-6-(4-methanesulfonyloxymethyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine in anhydrous acetone (3 mL), treat with anhydrous lithium bromide (335 mg, 3.89 mmol) and continue stirring overnight. Add water, extract the reaction mixture three times with ethyl ether, wash with brine, dry over anhydrous MgSO4, and concentrate in vacuo to obtain the desired intermediate that was used without purification.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-(4-methanesulfonyloxymethyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC=C(C=C2)COS(=O)(=O)C | C24H30ClNO5S2
reactant | lithium bromide | 3.89 mmol, 335 mg | [Br-].[Li+]
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 3-tert-Butoxycarbonyl-6-(4-bromomethyl-benzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC=C(C=C2)CBr | C23H27BrClNO2S
